US04997840
A mixture of acetic anhydride (4.6 ml) and formic acid (3.1 3 ml) was stirred at 60° for 2 hours and then cooled to 10°. 5'-Fluoro-2'-(methylamino)acetophenone (3.0 g) was then added and the mixture stirred overnight. The solution was cooled in an ice-bath and water (20 ml) added followed by aqueous sodium hydroxide (specific gravity 1.5) added dropwise to pH 10. The mixture was extracted with dichloromethane (3×30 ml) and the combined extracts dried over magnesium sulphate to give a solution of 2'-acetyl-4'-fluoro-N-methylformanilide.

reactant | acetic anhydride | 4.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 3 ml | C(=O)O | CH2O2
reactant | 5'-Fluoro-2'-(methylamino)acetophenone | 3.0 g | FC=1C=CC(=C(C1)C(C)=O)NC | C9H10FNO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
product | 2'-acetyl-4'-fluoro-N-methylformanilide | C(C)(=O)C1=C(N(C=O)C)C=CC(=C1)F | C10H10FNO2
